US05532258
A solution of 4-(3-acetylaminomethylphenyl)-2-(2-methyl-1-isothioureido)thiazole hydriodide (2.0 g) and 2-methoxyethylamine (5 ml) in ethanol (50 ml) was refluxed for 25 hours. The solvent was removed under reduced pressure and the residue was suspended in water (100 ml). The mixture was alkalized with 30% aqueous potassium carbonate solution and then extracted with a mixture of ethyl acetate (200 ml) and tetrahydrofuran (50 ml). The extract was dried with magnesium sulfate. The solvent was removed under reduced pressure and the residue was crystallized from ethyl acetate. Recrystallization from ethyl acetate afforded 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole (0.65 g).

reactant | 4-(3-acetylaminomethylphenyl)-2-(2-methyl-1-isothioureido)thiazole hydriodide | 2.0 g | I.C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)NC(SC)=N
reactant | 2-methoxyethylamine | 5 ml | COCCN | C3H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole | 0.65 g | C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(NCCOC)N | C16H21N5O2S
